### PR TITLE
Parity-refactored

### PR DESCRIPTION
**Pull request by traiansf**
Refactored the parity example following the discussion in the meeting; also removed from the composition module the similar examples.

### CODE REVIEW

File: theories/Examples/Tutorial/Parity.v [hunk 1]
```diff
@@ -1,5 +1,6 @@
 From stdpp Require Import prelude finite.
-From VLSM.Core Require Import VLSM PreloadedVLSM VLSMProjections.
+From VLSM.Core Require Import VLSM PreloadedVLSM VLSMProjections Composition.
+From Coq Require Import FunctionalExtensionality.
 
 (** * Parity VLSM
```
Comment (palmskog) [inline theories/Examples/Tutorial/Parity.v:5]: @traiansf can you do a pass over the top-level comment for this module? We have the following problems there after this change:
- we no longer store a tuple, but a single integer
- the mentioned "main result" `parity_valid_states_same_parity` was removed
- there is no mention of the "23" definitions and results (Triple VLSM)

File: theories/Examples/Tutorial/Parity.v [hunk 2]
```diff
@@ -421,149 +382,353 @@ Qed.
...
+  valid_state_prop ParityVLSM s <-> s >= 0.
 Proof.
   split.
   - by apply parity_valid_states_right.
-  - by intros []; apply parity_valid_states_left; [done | lia ..].
+  - by apply parity_valid_states_left.
 Qed.
+
+
+Section sec_radix23.
```
Comment (palmskog) [inline theories/Examples/Tutorial/Parity.v:518]:
```suggestion
Section sec_triple23.
```
How does "radix" come into play here? I can buy the "triple" part since we are multiplying by 3.

File: theories/Examples/Tutorial/Parity.v [hunk 3]
```diff
@@ -421,149 +382,353 @@ Qed.
...
+  forall (i : index23), zproj s i >= 0.
+Proof.
+  intros s Hs; induction Hs using valid_state_prop_ind;
+    [by intros i; specialize (Hs i); destruct i; cbn in *; red in Hs; lia |].
+  destruct l as [j lj], Ht as [(_ & _ & Hv & Hc) Ht].
+  intro i; specialize (IHHs i).
+  by destruct j; (destruct om ; [| done]); inversion Ht; subst; clear Ht; cbn in *;
+    destruct i; cbn in *; state_update_simpl; lia.
+Qed.
+
```
Comment (palmskog) [inline theories/Examples/Tutorial/Parity.v:693]: Can we get a coqdoc statement here about what this lemma is saying?

File: theories/Examples/Tutorial/PrimesComposition.v [hunk 4]
```diff
@@ -118,330 +118,26 @@ Definition RadixVLSM : VLSM RadixMessage :=
 
 Definition radix_label : label RadixType := ().
 
-(** ** Radix VLSM Examples *)
+(** ** Parity VLSM Properties *)
```
Comment (palmskog) [inline theories/Examples/Tutorial/PrimesComposition.v:121]: Here we now talk about the "Parity VLSM" again, but seemingly most definitions/result use the `Radix`/`radix` prefixes. Should we go with `Parity`/`parity` everywhere? At least that would make it consistent.

**Review by palmskog — COMMENTED** [review]
Some initial comments, mostly on structure/documentation, maybe you can comment @traiansf?

File: theories/Examples/Tutorial/PrimesComposition.v (hunk 4 above)
Comment (traiansf) [reply theories/Examples/Tutorial/PrimesComposition.v:121]: Sorry, merge error.

File: theories/Examples/Tutorial/PrimesComposition.v [hunk 5]
```diff
@@ -30,465 +33,120 @@ Context
...
 
-Lemma radix_valid_is_constrained :
-  VLSM_incl RadixVLSM (pre_loaded_with_all_messages_vlsm RadixVLSM).
-Proof.
-  by apply vlsm_incl_pre_loaded_with_all_messages_vlsm.
-Qed.
+(** ** Parity VLSM Properties *)
 
-(** *** Constrained messages are positive even integers *)
+(** *** Constrained messages are positives divisible by <<multiplier>> *)
```
Comment (palmskog) [inline theories/Examples/Tutorial/PrimesComposition.v:86]:
```suggestion
(** *** Constrained messages are positives divisible by the multiplier *)
```
Let's avoid special syntax in a header.

**Review by palmskog — APPROVED** [review]
This looks good to me now, but could we also change the name `Parity.v` to something like `Multiply.v` or `Multiplying.v`?
